US04780477
A solution of 4.00 g of 1-(2-bromoethyl)isatin and 13.5 ml of isopropylamine in 160 ml of dry N,N-dimethylformamide was stirred for 1 hour at 80° C. The solution was concentrated under reduced pressure and the residue was dissolved in 50 ml of a 2N-hydrochloric acid. The solution was washed with ethyl acetate, neutralized by adding an aqueous sodium bicarbonate solution, and extracted with chloroform. The chloroform layer was washed with water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified with silica gel column chromatography (eluent: chloroform/methanol=10/1) to obtain 3.11 g of 1-(2-isopropylaminoethyl)isatin in an oil.

reactant | 1-(2-bromoethyl)isatin | 4.00 g | BrCCN1C(=O)C(=O)C2=CC=CC=C12 | C10H8BrNO2
reactant | isopropylamine | 13.5 ml | C(C)(C)N | C3H9N
solvent | N,N-dimethylformamide | 160 ml | CN(C=O)C | C3H7NO
product | 1-(2-isopropylaminoethyl)isatin | 3.11 g | C(C)(C)NCCN1C(=O)C(=O)C2=CC=CC=C12 | C13H16N2O2
